US08703758B2
F) trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexanol
A solution of a solution of tert-butyl({4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)diphenylsilane (3.36 g) and tetrabutylammonium fluoride in THF (1.0 M, 12.8 mL) in THF (30 mL) was stirred at room temperature overnight and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (0.66 g).

reactant | tert-butyl({4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)diphenylsilane | 3.36 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1CCC(CC1)C=1OC2=C(C1)C=CC(=C2)OCC2CC2 | C34H40O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1.0 M, 12.8 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexanol | 0.66 g | C1(CC1)COC1=CC2=C(C=C(O2)[C@@H]2CC[C@H](CC2)O)C=C1 | C18H22O3
